US03998874
22.9 g. of 3-isopropylcatechol, 56 g. of epichlorhydrin and 0.2 g. of sodium hydroxide, dissolved in a few drops of water, are stirred together for 21 days at 40° C under a nitrogen atmosphere. The excess of epichlorohydrin is distilled off under reduced pressure. The resulting oil is dissolved in chloroform, washed twice with water and purified by molecular distillation at 10-3 mm.Hg 32.55 g. of impure 1,1'-[(3-isopropyl-o-phenylene)dioxy]-bis-(3-chloropropan-2-ol) are obtained.

reactant | 3-isopropylcatechol | C(C)(C)C1=C(C(O)=CC=C1)O | C9H12O2
reactant | epichlorhydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | water | a few drops | O | H2O
product | 1,1'-[(3-isopropyl-o-phenylene)dioxy]-bis-(3-chloropropan-2-ol) | C(C)(C)C=1C(=C(C=CC1)OCC(CCl)O)OCC(CCl)O | C15H22Cl2O4
